US07381719B2
Using a method similar to Example 659, Step 2, using 2-isopropyl-1-methoxy-3-(2-nitro-vinyl)-benzene (3.92 g, 17.7 mmol), LAH (53.1 mmol) and AlCl3 (53.1 mmol) gave 2-(2-isopropyl-3-methoxy-phenyl)-ethylamine (3.4 g) as a viscous oil. 1H NMR (CDCl3): 7.08 (t, 1H), 6.77-6.73 (m, 2H), 3.80 (s, 3H), 3.22 (m, 1H), 2.89 (m, 2H), 2.80 (m, 2H), 1.32 (d, 6H).

reactant | 2-isopropyl-1-methoxy-3-(2-nitro-vinyl)-benzene | 17.7 mmol, 3.92 g | C(C)(C)C1=C(C=CC=C1C=C[N+](=O)[O-])OC | C12H15NO3
reactant | LAH | 53.1 mmol | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | AlCl3 | 53.1 mmol | [Al+3].[Cl-].[Cl-].[Cl-]
product | 2-(2-isopropyl-3-methoxy-phenyl)-ethylamine | 3.4 g | C(C)(C)C1=C(C=CC=C1OC)CCN | C12H19NO
